US04622411
Isobutyl vinyl ether palladium dichloride is prepared analogously from acetonitrile palladium dichloride and isobutyl vinyl ether, melting point 57°-60° C.

reactant | acetonitrile palladium dichloride | [Pd](Cl)Cl.C(C)#N
reactant | isobutyl vinyl ether | C(=C)OCC(C)C | C6H12O
product | Isobutyl vinyl ether palladium dichloride | [Pd](Cl)Cl.C(=C)OCC(C)C | InChI=1S/C6H12O.2ClH.Pd/c1-4-7-5-6(2)3;;;/h4,6H,1,5H2,2-3H3;2*1H;/q;;;+2/p-2
